US07820704B2
3-(1-Cyclopentyl-thioureido)-propionic acid tert-butyl ester was prepared using general procedure D with cyclopentanone, beta-alanine tert-butyl ester hydrochloride, sodium triacetoxyborohydride, Fmoc isothiocyanate, and diethyl amine.

reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | beta-alanine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CCN)=O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Fmoc isothiocyanate | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
reactant | diethyl amine | C(C)NCC | C4H11N
product | 3-(1-Cyclopentyl-thioureido)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(C(=S)N)C1CCCC1)=O | C13H24N2O2S
